US08039480B2
tert-Butyl 9-cyclopropyl-3,9-diazaspiro[5.5]undecane-3-carboxylate
tert-Butyl 3,9-diazaspiro[5.5]undecane-3-carboxylate (250 mg, 0.98 mmol) were dissolved in 10 ml of absolute methanol. 3 g of molecular sieves (3 Å, which had been dried beforehand under high vacuum) were added to this solution. Under argon, glacial acetic acid (0.55 ml, 10 eq.), [(1-ethoxycyclopropyl)oxy]trimethylsilane (0.69 ml, 3.5 eq.) and 4.4 ml of a 1 M NaCNBH3 solution in THF (4.4 mmol, 4.5 eq.) were then added successively. After stirring at RT for 20 minutes, the mixture was heated to 60° C. and stirred at this temperature for about 15 h. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was taken up in dichloromethane, washed successively with 1 M NaOH solution and NaCl solution, and dried over MgSO4. After the solvent had been removed under reduced pressure, the product was obtained as a colorless oil.

reactant | tert-Butyl 3,9-diazaspiro[5.5]undecane-3-carboxylate | 0.98 mmol, 250 mg | C1CN(CCC12CCNCC2)C(=O)OC(C)(C)C | C14H26N2O2
reactant | acetic acid | 0.55 ml, 10 eq. | C(C)(=O)O | C2H4O2
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilane | 0.69 ml, 3.5 eq. | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | NaCNBH3 | 1 M | [BH3-]C#N.[Na+]
reactant | THF | 4.4 mmol, 4.5 eq. | C1CCOC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | tert-Butyl 9-cyclopropyl-3,9-diazaspiro[5.5]undecane-3-carboxylate | C1(CC1)N1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C17H30N2O2
